datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"O=[N+]([O-])c1cc(Br)ccc1[O-:10].[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>O=[N+]([O-])c1cc(Br)ccc1[O:10][H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O-:10].Cc1c[n+:21]([H:20])cc[nH+]1>>CCCCCCCCCCc1c(-c2ccccc2)nn(-c2ccccc2)c1[O:10][H:20].Cc1c[n:21]cc[nH+]1 10=20;20,21=21",
"Cc1cc(Cc2cc(C)c([O-:10])c(C)c2)c([O-])c([N+](=O)[O-])c1.O=Cc1ncnc2nc[n:21]([H:20])c12>>Cc1cc(Cc2cc(C)c([O:10][H:20])c(C)c2)c([O-])c([N+](=O)[O-])c1.O=Cc1ncnc2nc[n-:21]c12 10=20;20,21=21",
"N#Cc1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>N#Cc1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"C[NH+](C)C[C@@H]1[C@@H]([NH2:10])[C@]2(C)CC[C@@H]1C2(C)C.O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>C[NH+](C)C[C@@H]1[C@@H]([NH2+:10][H:20])[C@]2(C)CC[C@@H]1C2(C)C.O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"CC/C=C/CC1=[N:10]C(C(=O)[O-])C2SC(C)(C)C(C(=O)[O-])N12.O=Cc1ncnc2c1[nH]c[n+:21]2[H:20]>>CC/C=C/CC1=[N+:10]([H:20])C(C(=O)[O-])C2SC(C)(C)C(C(=O)[O-])N12.O=Cc1ncnc2c1[nH]c[n:21]2 10=20;20,21=21",
"CC(C)SCC[NH2+:21][H:20].[O-]c1cccc2c1-c1cccc([O-:10])c1-2>>CC(C)SCC[NH2:21].[O-]c1cccc2c1-c1cccc([O:10][H:20])c1-2 10=20;20,21=21",
"C[N:10](C)CCOC(c1ccccc1)c1ccccc1.NCCc1ccc([O:21][H:20])cc1>>C[N+:10](C)(CCOC(c1ccccc1)c1ccccc1)[H:20].NCCc1ccc([O-:21])cc1 10=20;20,21=21",
"CC(Cc1ccc2c(c1)OCO2)[NH2:10].Cc1cccc(/N=N/c2ccc([N+:21](C)(C)[H:20])cc2)c1>>CC(Cc1ccc2c(c1)OCO2)[NH2+:10][H:20].Cc1cccc(/N=N/c2ccc([N:21](C)C)cc2)c1 10=20;20,21=21",
"CC1CC[N+:21](O)([H:20])C1(C)C.CCCC[N:10](C)C>>CC1CC[N:21](O)C1(C)C.CCCC[N+:10](C)(C)[H:20] 10=20;20,21=21",
"CC(C)(C)N[NH+:21](C(C)(C)C)[H:20].Nc1cc[n:10]c(-c2cc(Cl)ccn2)c1>>CC(C)(C)N[NH:21]C(C)(C)C.Nc1cc[n+:10]([H:20])c(-c2cc(Cl)ccn2)c1 10=20;20,21=21",
"C[NH+](C)Cc1cc(F)ccc1[O:21][H:20].Cc1cc2ccc3cccnc3c2[n:10]c1>>C[NH+](C)Cc1cc(F)ccc1[O-:21].Cc1cc2ccc3cccnc3c2[n+:10]([H:20])c1 10=20;20,21=21",
"CC1(C)SC(=S)[N-:10]C1=O.CCCCCCCCCC[N+:21](CC(C)O)(CC(C)O)[H:20]>>CC1(C)SC(=S)[N:10]([H:20])C1=O.CCCCCCCCCC[N:21](CC(C)O)CC(C)O 10=20;20,21=21",
"NC(=[NH2+])Nc1nccc(-c2csc(N)[n+:21]2[H:20])n1.c1ccc2c[n:10]ncc2c1>>NC(=[NH2+])Nc1nccc(-c2csc(N)[n:21]2)n1.c1ccc2c[n+:10]([H:20])ncc2c1 10=20;20,21=21",
"CC(C)C(C(=O)O)[NH2:10].O=C(C1=CC=CC=C1)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20]>>CC(C)C(C(=O)O)[NH2+:10][H:20].O=C(C1=CC=CC=C1)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10=20;20,21=21",
"COc1cccc[n+]1[O:21][H:20].O=C(C(c1ccc(-c2ccccc2)cc1)C(O)c1ccccc1)[O-:10]>>COc1cccc[n+]1[O-:21].O=C(C(c1ccc(-c2ccccc2)cc1)C(O)c1ccccc1)[O:10][H:20] 10=20;20,21=21",
"Cc1cc[n+:21]([H:20])o1.Cc1ccccc1C(=O)[O-:10]>>Cc1cc[n:21]o1.Cc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].C[C@@H](N)[C@H](C)[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[C@@H](N)[C@H](C)[NH2+:10][H:20] 10=20;20,21=21",
"CC(=O)Nc1cccc([O-:10])c1.O=C([O-])c1cc([N+](=O)[O-])ccc1[O:21][H:20]>>CC(=O)Nc1cccc([O:10][H:20])c1.O=C([O-])c1cc([N+](=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"CCNc1cc[n:10]c([S-])n1.Cc1cccc([N+:21](=CN(C)C)[H:20])c1>>CCNc1cc[n+:10]([H:20])c([S-])n1.Cc1cccc([N:21]=CN(C)C)c1 10=20;20,21=21",
"CC(C(=O)[O-:10])C(C#N)c1ccccc1.Cc1cc[n+:21]([H:20])c(/N=C/c2ccc([N+](=O)[O-])cc2)n1>>CC(C(=O)[O:10][H:20])C(C#N)c1ccccc1.Cc1cc[n:21]c(/N=C/c2ccc([N+](=O)[O-])cc2)n1 10=20;20,21=21",
"CC(C)(C)c1cc(/C=C/Cl)cc(C(C)(C)C)c1[O-:10].CNc1ccc(S(=O)(=O)[N:21](c2nc(C)cs2)[H:20])cc1>>CC(C)(C)c1cc(/C=C/Cl)cc(C(C)(C)C)c1[O:10][H:20].CNc1ccc(S(=O)(=O)[N-:21]c2nc(C)cs2)cc1 10=20;20,21=21",
"Cc1cc(-c2cc(C)[n:10][nH]2)[nH]n1.[O-]c1cc[n+:21]([H:20])c2nccnc12>>Cc1cc(-c2cc(C)[n+:10]([H:20])[nH]2)[nH]n1.[O-]c1cc[n:21]c2nccnc12 10=20;20,21=21",
"CCC(O)C[N:10](C)CC(O)CC.CSCc1cccc(CSC)[n+:21]1[H:20]>>CCC(O)C[N+:10](C)(CC(O)CC)[H:20].CSCc1cccc(CSC)[n:21]1 10=20;20,21=21",
"CCC#CC(=O)[O:21][H:20].CCC[N:10](CCCl)CCCl>>CCC#CC(=O)[O-:21].CCC[N+:10](CCCl)(CCCl)[H:20] 10=20;20,21=21",
"CC(CC1CCCCC1)[NH:10]C.Cc1nc(N)cc([O:21][H:20])[nH+]1>>CC(CC1CCCCC1)[NH+:10](C)[H:20].Cc1nc(N)cc([O-:21])[nH+]1 10=20;20,21=21",
"O=C1SC2=C(C=CC=C2)[CH:21]1[H:20].c1ccc2c3c([nH]c2c1)C[NH:10]CC3>>O=C1SC2=C(C=CC=C2)[CH-:21]1.c1ccc2c3c([nH]c2c1)C[NH+:10]([H:20])CC3 10=20;20,21=21",
"Cc1cc(C(C)C)cc(C)c1[O-:10].O=C1C=CC(C(=O)[O:21][H:20])=CO1>>Cc1cc(C(C)C)cc(C)c1[O:10][H:20].O=C1C=CC(C(=O)[O-:21])=CO1 10=20;20,21=21",
"CCC[O-:10].C[N+]1=CC=C(C(=O)[CH:21](C2=CC=C([N+](=O)[O-])C=C2)[H:20])C=C1>>CCC[O:10][H:20].C[N+]1=CC=C(C(=O)[CH-:21]C2=CC=C([N+](=O)[O-])C=C2)C=C1 10=20;20,21=21",
"CN(CCC[NH+](C)C)CCC[N+:21](C)(C)[H:20].O=Cc1cccc(Cl)c1[O-:10]>>CN(CCC[NH+](C)C)CCC[N:21](C)C.O=Cc1cccc(Cl)c1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(C(c2ccc(N)cc2)c2ccc(N)cc2)ccc1[NH2:10].Cc1ccc(C(O)C[NH2+:21][H:20])cc1>>Cc1cc(C(c2ccc(N)cc2)c2ccc(N)cc2)ccc1[NH2+:10][H:20].Cc1ccc(C(O)C[NH2:21])cc1 10=20;20,21=21",
